US04006132
Preparation of Ethyl Dichloro[(2,4,6-Trichlorophenyl)azo]acetate
Following the same procedure but substituting methyl-, isopropyl- and butyl-chloroglyoxylate-2-(2,4,6-trichlorophenyl)hydrazone for ethyl chloroglyoxylate 2-(2,4,6-trichlorophenyl)hydrazone there were prepared methyl dichloro[(2,4,6-trichlorophenyl)azo]acetate,

reactant | ethyl chloroglyoxylate 2-(2,4,6-trichlorophenyl)hydrazone | ClC1=C(C(=CC(=C1)Cl)Cl)NN=C(C(=O)OCC)Cl | C10H8Cl4N2O2
reactant | methyl dichloro[(2,4,6-trichlorophenyl)azo]acetate | ClC(C(=O)OC)(N=NC1=C(C=C(C=C1Cl)Cl)Cl)Cl | C9H5Cl5N2O2
product | Ethyl Dichloro[(2,4,6-Trichlorophenyl)azo]acetate | ClC(C(=O)OCC)(N=NC1=C(C=C(C=C1Cl)Cl)Cl)Cl | C10H7Cl5N2O2
